US04219559
A mixture of 3.6 parts of [(4-methoxyphenoxy)methyl]oxirane, 4.9 parts of 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide, 2.1 parts of sodium carbonate, 40 parts of methanol and 90 parts of benzene is stirred and refluxed overnight. The reaction mixture is filtered and the filtrate is evaporated. The residue is crystallized from a mixture of 2-propanone and 2,2'-oxybispropane. The product is filtered off and dried, yielding 2.6 parts (51%) of 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-α-(4-methoxyphenoxymethyl)-1-piperidineethanol; mp. 174.5° C.

reactant | [(4-methoxyphenoxy)methyl]oxirane | COC1=CC=C(OCC2OC2)C=C1 | C10H12O3
reactant | 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide | Br.Br.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-α-(4-methoxyphenoxymethyl)-1-piperidineethanol | 51% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CC(O)COC2=CC=C(C=C2)OC | C29H33FN4O3
